US07820673B2
51c) N—(4-chlorophenyl)—N′—(2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-(2-thienyl)ethyl)urea
To tert-butyl(2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-(2-thienyl)ethyl)carbamate (0.32 g) obtained in Example Sib) was added a 4 N solution of hydrogen chloride in ethyl acetate (2.6 ml), mixed at room temperature for 5 minutes, and then concentrated under reduced pressure. The residue was dissolved in acetonitrile (5 ml), triethylamine (0.14 ml) and 4-chlorophenyl isocyanate (0.08 g) were added thereto, and mixed at room temperature for 3 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with an aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with basic silica gel column (ethyl acetate to ethyl acetate/methanol=10/1). The product was crystallized from ethyl acetate-diethyl ether to obtain the title compound as colorless powder (0.11 g, 42%).

reactant | tert-butyl(2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-(2-thienyl)ethyl)carbamate | 0.32 g | C(C)(C)(C)OC(NC(C(=O)N1CCC(CC1)N1C(N2C(C1)=CN=C2C)=O)C=2SC=CC2)=O | C22H29N5O4S
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 2.6 ml | C(C)(=O)OCC | C4H8O2
product | N—(4-chlorophenyl)—N′—(2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperidinyl)-2-oxo-1-(2-thienyl)ethyl)urea | 0.11 g, 42% | ClC1=CC=C(C=C1)NC(=O)NC(C(=O)N1CCC(CC1)N1C(N2C(C1)=CN=C2C)=O)C=2SC=CC2 | C24H25ClN6O3S
